data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_565856_0,[C:1](/[N:7]=[N:5]/[N:6]=[C:2](\[N:3]([H:9])[H:10])[O:4][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:2]([N:3]([H:9])[H:10])([O:4][H:8])[N:6]=[N:5]1)([H:11])([H:12])[H:13],25.580037500013617
MR_694468_0,[C:1](/[C:2]([C:3]([N:6]([H:14])[H:15])=[C:7]([H:17])[H:18])=[N:8]/[H:16])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9]>>[C:1](/[C:2]([N:5]([H:12])[H:13])=[N:8]\[H:16])([C:3]([N:6]([H:14])[H:15])=[C:7]([H:17])[H:18])([N:4]([H:10])[H:11])[H:9],62.83659500000965
MR_515869_0,[C:1]([N:5]([N:4]([N:7]([H:11])[H:12])[H:9])[H:10])([N:8]=[C:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:5]([H:10])[N:8]1[C:6]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])[N:4]([N:7]([H:11])[H:12])[H:9],70.19089499998984
MR_660578_1,[C@:1]([N:4]([C:2]([H:13])([H:14])[H:15])[O:7][H:8])([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([N:6]([H:11])[H:12])[H:10]>>[C@:1]([N:4]([C:2]([H:13])([H:14])[H:15])[N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([N:6]([H:11])[H:12])([O:7][H:8])[H:10],71.00915499995708
MR_100589_1,[C:1]([N:4]([N:3]([C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[H:10])=[O:7])[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([N:4]([N:3]([C:6]([N:5]([C:2]([H:14])([H:15])[H:16])[H:9])=[O:7])[H:8])[H:10])([H:11])([H:12])[H:13],51.50896500000243
MR_23213_0,[C:1]([C:4]([N:3]([C:5]([C:2]([H:10])([H:11])[H:14])=[O:7])[H:8])=[O:6])([H:9])([H:12])[H:13]>>[C:1](/[C:4](=[N:3]/[H:8])[O:6][C:5]([C:2]([H:10])([H:11])[H:14])=[O:7])([H:9])([H:12])[H:13],39.718240000023
MR_334284_1,[C:1]1([O:4][H:7])([H:10])[C:2]([O:3][H:8])([O:5][H:9])[O:6]1>>[C:1]([C:2]([O:3][H:8])=[O:6])([O:4][H:7])([O:5][H:9])[H:10],29.358214999998324
MR_611894_0,[C:1]([C:2]([N:4]([H:9])[H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:5][O:6][H:7])[H:8]>>[C:1]([C:3]([H:13])([H:14])[H:15])([O:5][C:2]([N:4]([H:9])[H:10])([H:11])[H:12])([O:6][H:7])[H:8],50.45037249999993
MR_473924_0,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])([O:5][O:4][O:6][H:8])([H:10])[H:11]>>[C:1]([O:4][O:6][H:8])([O:5]/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])([H:10])[H:11],59.29623999999521
MR_290624_2,[C:1](=[C:4]([C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[O:7][N:6]([H:10])[H:11])[O:8][H:9])([H:12])[H:13]>>[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[O:8][H:9])([O:7][N:6]([H:10])[H:11])([H:12])[H:13],48.79816499999805
MR_677814_0,[C:1]1([O:8][H:9])([H:10])[N:5]([C:2]([H:11])([H:12])[H:13])[C:6]1=[C:7]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19]>>[C@@:1]1([O:8][H:9])([H:10])/[C:6](=[N:5]/[C:2]([H:11])([H:12])[H:13])[C:7]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19],39.1792174999928
MR_139194_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])/[C:6](=[C:7](\[C:3]([H:17])([H:18])[H:19])[H:13])[H:12]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])=[C:6](\[C@:7]([C:3]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[H:13])[H:12],56.26792500000775
MR_271881_2,[C:1](/[N:3]=[C:4](/[C:2]([H:12])([H:13])[H:14])[C:5](/[N:6]=[N:7]\[H:8])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])/[N:6]=[N:7]/[H:8])([H:9])([H:10])[H:11],45.23584749996772
MR_191999_0,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:13])[H:14])([O:6][H:10])[O:8][H:9])[H:12])(=[O:7])[H:11]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([N:5]([H:13])[H:14])=[O:8])[H:12])([O:6][H:10])([O:7][H:9])[H:11],23.389435000015624
MR_38375_1,[C:1]([O:5][C:3](/[N:7]=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:6][H:9])=[N:8]/[H:10])([H:11])([H:12])[H:13]>>[C:1]([O:5][C@@:4]([C:2]([H:14])([H:15])[H:16])([O:6][H:9])[N:7][C:3][N:8][H:10])([H:11])([H:12])[H:13],43.077247499995934
MR_538488_0,[C:1]([C:3](/[N:7]=[C:2](/[O:5][H:9])[N:6][O:4][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:3]1([H:10])[N:6]([O:4][H:8])[C:2]([O:5][H:9])=[N:7]1)([H:11])([H:12])[H:13],36.91394250000499
MR_547324_0,[C:1]1([C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[H:10])=[O:8])([H:9])[C:2]([N:6]([H:12])[H:13])([H:11])[O:7]1>>[C:1](/[C:2](=[N:6]/[H:12])[H:11])([C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[H:10])=[O:8])([O:7][H:13])[H:9],23.602784999976336
MR_110908_1,[C:1]([N:4]([C:2]([H:10])([H:11])[H:12])[C:5]1([H:7])[C:3]([H:14])([H:16])[N:6]1[H:15])([H:8])([H:9])[H:13]>>[C:1]([N:4]([C:2]([H:10])([H:11])[H:12])/[C:5](=[N:6]/[C:3]([H:14])([H:15])[H:16])[H:7])([H:8])([H:9])[H:13],63.56010249996643
MR_227329_0,[C:1]([C:2]([C:6]([N:7]([H:11])[H:12])=[O:9])([H:13])[H:14])([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8][H:10]>>[C:1]([C:2]([C:6]([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])([N:7]([H:11])[H:12])[O:9][H:10])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])=[O:8],72.18383499998751
